US08334287B2
b) 2-chloro-4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridine
To a solution of 400 mg (1.85 mmol) of 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole and 1.12 ml (1.46 g, 11.1 mmol) of 2-chloro-4-fluoropyridine in 5 ml of DMF were added 1.2 g (3.69 mmol) of cesium carbonate. The mixture was heated to 100° C. for 4 h, allowed to cool and concentrated in vaccuo. The residue was taken up in 20 ml ethyl acetate and the organic phase was washed twice with 20 ml of water and dried over magnesium sulfate. After treatment with charcoal, the solution was filtered and concentrated to yield 531 mg (1.62 mmol, 88%) of the title compound as an off-white crystalline solid, MS: m/e=328.1, 330.1 (M+H+).

reactant | 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole | 1.85 mmol, 400 mg | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
reactant | 2-chloro-4-fluoropyridine | 11.1 mmol, 1.12 ml, 1.46 g | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | cesium carbonate | 3.69 mmol, 1.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-chloro-4-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridine | 1.62 mmol, 531 mg, 88% | ClC1=NC=CC(=C1)N1C(=NC(=C1)C#CC1=CC(=CC=C1)Cl)C | C17H11Cl2N3
